US08110584B2
8-Azabicyclo[3.2.1]oct-8-yl([2,1,3]-benzoxadiazol-5-yl)methanone
The preceding product (3.3 g) was dissolved in THF (50 ml) and methanol (50 ml), and freshly prepared Zn/Cu (15 g) was added followed by formic acid (5 ml). The mixture was stirred at room temperature for 20 minutes before filtering the solids and evaporating the solvent until ˜10 ml remained. Concentrated sodium hydroxide solution was added until pH 10 was reached and the mixture extracted with chloroform (100 ml) and the organic phase dried over sodium sulfate. Triethylamine (2 ml) was added followed by a solution of [2,1,3]-benzoxadiazole-5-carbonylchloride (0.5 g, 2.73 mmol) in chloroform (20 ml), slowly. After stirring the mixture for 20 minutes, water (100 ml) and H2SO4 (→pH2) were added and the aqueous phase extracted with chloroform (100 ml), dried over magnesium sulfate, and concentrated under vacuum to give an oil. The material was purified by silica gel chromatography eluting with hexane/ethyl acetate (3:2), to give after crystallization from dichloromethane/MTBE 133 mg of a white solid: mp=128-130° C., LC-MS, MH+=258; 1H NMR (300 MHz, CDCl3) δ 7.92 (s, 1H); 7.90 (d, 1H, J=6.3 Hz); 7.52 (d, 1H, J=6.3 Hz); 4.84 (s, 1H); 4.06 (s, 1H); 2.06-1.50 ppm (m, 10H).

reactant | formic acid | 5 ml | C(=O)O | CH2O2
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | 2.73 mmol, 0.5 g | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
reactant | water | 100 ml | O | H2O
reactant | H2SO4 | pH2 | OS(=O)(=O)O | H2O4S
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-Azabicyclo[3.2.1]oct-8-yl([2,1,3]-benzoxadiazol-5-yl)methanone | C12CCCC(CC1)N2C(=O)C2=CC=1C(=NON1)C=C2 | C14H15N3O2
